US07884234B2
(3) Preparation of Methyl N-[4-(tert-butyl)benzyl]-N-[2,4-dimethoxy-4′-(trifluoromethoxy)biphenyl-5-yl]oxamate
A mixture of methyl N-(5-chloro-2,4-dimethoxyphenyl)-N-[4-(tert-butyl)benzyl]oxamate (800 mg, 1.91 mmol), 4-(trifluoromethoxy)benzeneboronic acid (549 mg, 2.67 mmol), palladium(II) acetate (21 mg, 0.095 mmol), potassium fluoride (332 mg, 5.72 mmol), 2-(di-tert-butylphosphino)biphenyl (57 mg, 0.191 mmol) and tetrahydrofuran (3.0 ml) was refluxed for 5 hours under argon atmosphere. The reaction mixture was cooled to room temperature, diluted with water, and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=2:1) to give the title compound (140 mg, 14%) as a pale yellow oil.

reactant | methyl N-(5-chloro-2,4-dimethoxyphenyl)-N-[4-(tert-butyl)benzyl]oxamate | 1.91 mmol, 800 mg | ClC=1C(=CC(=C(C1)N(C(C(=O)OC)=O)CC1=CC=C(C=C1)C(C)(C)C)OC)OC | C22H26ClNO5
reactant | 4-(trifluoromethoxy)benzeneboronic acid | 2.67 mmol, 549 mg | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | potassium fluoride | 5.72 mmol, 332 mg | [F-].[K+]
reactant | 2-(di-tert-butylphosphino)biphenyl | 0.191 mmol, 57 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | water | O | H2O
catalyst | palladium(II) acetate | 0.095 mmol, 21 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
product | Methyl N-[4-(tert-butyl)benzyl]-N-[2,4-dimethoxy-4′-(trifluoromethoxy)biphenyl-5-yl]oxamate | 140 mg, 14% | C(C)(C)(C)C1=CC=C(CN(C(C(=O)OC)=O)C=2C(=CC(=C(C2)C2=CC=C(C=C2)OC(F)(F)F)OC)OC)C=C1 | C29H30F3NO6
